US05093370
1,4-Bis(4-bromobutyl)-2-nitrobenzene
To 1 ml of 60% nitric acid was added 1 ml of 97% sulfuric acid under ice-cooling, and the mixture was stirred for 10 minutes. After adding 0.42 g of 1,4-bis(4-bromobutyl)benzene, the whole was stirred at a room temperature for an hour. The reaction mixture was poured onto ice, and extracted with total 60 ml of chloroform. The extract was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated under a reduced pressure to remove the solvent. The residue was applied to a silica gel column and eluted with chloroform/hexane (1:1). From the first fraction, 0.43 g of the title compound was obtained as a pale yellow liquid.

reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,4-bis(4-bromobutyl)benzene | 0.42 g | BrCCCCC1=CC=C(C=C1)CCCCBr | C14H20Br2
product | 1,4-Bis(4-bromobutyl)-2-nitrobenzene | 0.43 g | BrCCCCC1=C(C=C(C=C1)CCCCBr)[N+](=O)[O-] | C14H19Br2NO2
